US08541576B2
The suspension of 440 mg (1.74 mmol) of ethyl 1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate in ethanol (30 ml) 300 mg (5.2 mmol) of potassium hydroxide was heated at reflux for 2 hours. The volatiles were removed under vacuum, the residue was diluted with ethanol (3 ml) and the solid filtered to provide potassium 1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate 374 mg (80%).

reactant | ethyl 1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.74 mmol, 440 mg | CN1N=C(C=2CCC=3C=NC=NC3C21)C(=O)OCC | C13H14N4O2
reactant | ethanol | 5.2 mmol, 30 ml, 300 mg | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
product | potassium 1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 374 mg, 80% | CN1N=C(C=2CCC=3C=NC=NC3C21)C(=O)[O-].[K+] | InChI=1S/C11H10N4O2.K/c1-15-10-7(9(14-15)11(16)17)3-2-6-4-12-5-13-8(6)10;/h4-5H,2-3H2,1H3,(H,16,17);/q;+1/p-1
